*$
* OPA1662
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA1662
* Date: 25JAN2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS489-DECEMBER 2011
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Final 1.2
* Updated with unique subckt name and edits in claw block
*
* Final 1.1
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
***************************************************************************** 
.subckt OPA1662 IN+ IN- VCC VEE OUT
******************************************************
.model R_NOISELESS RES(T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=1M ROFF=1G VON=900M VOFF=800M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_3 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
******************************************************
V_ORn       37 VCLP -18.8
V_ORp       38 VCLP 18.8
V4          ZO_OUT_J1 OUT 0
V_GRp       53 MID 168
V_GRn       54 MID -167
V_ISCp      49 MID 46.4286
V_ISCn      50 MID -43.3063
V11         44 48 0
V12         43 47 0
VCM_MIN     67 VEE_B 500M
VCM_MAX     68 VCC_B -1
I_Q         VCC VEE 1.5M
I_OS        ESDn MID 575N
I_B         22 MID 600N
XIn11       ESDn MID FEMT_0_0_OPA1662
XU6         21 22 VOS_DRIFT_0_OPA1662
XU1 Zo_Cleft CL_CLAMP Zo_Cright MID ZO_OUT_J1 AOL_INN_J1 AOL_INP_J1 CLAMP 
+ CLAW_CLAMP VSENSE AOL_ZO_0_OPA1662 
XU2         OUT_J1_28 VCC_B MID PSRR_CMRR_0_OPA1662
XU3         OUT_J1_29 VEE_B MID PSRR_CMRR_1_OPA1662
XU4         OUT_J1_30 ESDp MID PSRR_CMRR_2_OPA1662
XU5         VEE VCC ESDn ESDp ESD_0_OPA1662
C_DIFF      ESDp ESDn 2P   
XIn12       MID 22 FEMT_0_0_OPA1662
XGR_SRC     31 32 CLAMP MID VCCS_LIM_GR_0_0_OPA1662
XCL_SRC     33 34 CL_CLAMP MID VCCS_LIM_4_0_0_OPA1662
XCLAW_SRC   35 36 CLAW_CLAMP MID VCCS_LIM_3_0_0_OPA1662
XCLAWp      VIMON MID 39 VCC_B VCCS_LIM_CLAW+_0_0_OPA1662
XCLAWn      MID VIMON VEE_B 40 VCCS_LIM_CLAW-_0_0_OPA1662
Xe_n        22 ESDp VNSE_0_0_OPA1662
H2          41 MID V11 -1
H3          42 MID V12 1
S1          Zo_Cleft Zo_Cright SW_OL MID  S_VSWITCH_1
S7          VEE OUT VEE OUT  S_VSWITCH_2
S6          OUT VCC OUT VCC  S_VSWITCH_2
SOR_SWp     CLAMP 43 CLAMP 43  S_VSWITCH_3
SOR_SWn     44 CLAMP 44 CLAMP  S_VSWITCH_3
C_CMn       ESDn MID 2.5P   
C_CMp       MID ESDp 2.5P   
C28         45 MID 1P   
R77         42 45 R_NOISELESS 100 
C27         46 MID 1P   
R76         41 46 R_NOISELESS 100 
R75         MID 47 R_NOISELESS 1 
GVCCS8      47 MID 38 MID  -1
R74         48 MID R_NOISELESS 1 
GVCCS7      48 MID 37 MID  -1
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0_OPA1662
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0_OPA1662
XCL_AMP     49 50 VIMON MID 51 52 CLAMP_AMP_LO_0_OPA1662_0_OPA1662
XGR_AMP     53 54 55 MID 56 57 CLAMP_AMP_HI_0_OPA1662
R39         53 MID R_NOISELESS 1T 
R37         54 MID R_NOISELESS 1T 
R42         VSENSE 55 R_NOISELESS 1M 
C19         55 MID 1F   
R38         56 MID R_NOISELESS 1 
R36         MID 57 R_NOISELESS 1 
R40         56 31 R_NOISELESS 1M 
R41         57 32 R_NOISELESS 1M 
C17         31 MID 1F   
C18         MID 32 1F   
R21         51 MID R_NOISELESS 1 
R20         MID 52 R_NOISELESS 1 
R29         51 33 R_NOISELESS 1M 
R30         52 34 R_NOISELESS 1M 
C9          33 MID 1F   
C8          MID 34 1F   
R22         49 MID R_NOISELESS 1T 
R19         MID 50 R_NOISELESS 1T 
R12         39 VCC_B R_NOISELESS 1K 
R16         39 58 R_NOISELESS 1M 
R13         VEE_B 40 R_NOISELESS 1K 
R17         59 40 R_NOISELESS 1M 
C6          59 MID 1F   
C5          MID 58 1F   
G2          VCC_CLP MID 58 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 59 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 60 61 CLAMP_AMP_LO_0_OPA1662
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         60 MID R_NOISELESS 1 
R24         MID 61 R_NOISELESS 1 
R27         60 35 R_NOISELESS 1M 
R28         61 36 R_NOISELESS 1M 
C11         35 MID 1F   
C10         MID 36 1F   
C12         SW_OL MID 100P   
R32         62 SW_OL R_NOISELESS 100 
R31         62 MID R_NOISELESS 1 
XOL_SENSE   MID 62 46 45 OL_SENSE_0_OPA1662
H1          63 MID V4 1K
R11         MID 64 R_NOISELESS 1T 
R18         64 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1N   
E2          64 MID OUT MID  1
C13         VIMON MID 1N   
R33         63 VIMON R_NOISELESS 100 
R10         MID 63 R_NOISELESS 1T 
R47         65 VCLP R_NOISELESS 100 
C24         VCLP MID 100P   
E4          65 MID CL_CLAMP MID  1
C4          AOL_INP_J1 MID 1F   
R9          AOL_INP_J1 66 R_NOISELESS 1M 
R7          MID 67 R_NOISELESS 1T 
R6          68 MID R_NOISELESS 1T 
R8          MID 66 R_NOISELESS 1 
XVCM_CLAMP  69 MID 66 MID 68 67 VCCS_EXT_LIM_0_OPA1662
E1          MID 0 70 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          71 VEE_B R_NOISELESS 1M 
C3          71 0 1F   
R60         70 71 R_NOISELESS 1MEG 
C1          70 0 1   
R3          70 0 R_NOISELESS 1T 
R59         72 70 R_NOISELESS 1MEG 
C2          72 0 1F   
R4          VCC_B 72 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       73 69 R_NOISELESS 1K 
G1          69 73 OUT_J1_28 OUT_J1_29  -1M
R2          AOL_INN_J1 ESDn R_NOISELESS 1M 
R1          73 74 R_NOISELESS 1M 
R_CMR       21 74 R_NOISELESS 1K 
G5          74 21 OUT_J1_30 MID  -1M
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 
.ENDS OPA1662
* 
.SUBCKT AOL_ZO_0_OPA1662 ZO_CLEFT CL_CLAMP ZO_CRIGHT MID ZO_OUT AOL_INN AOL_INP CLAMP 
+ CLAW_CLAMP VSENSE 
.model R_NOISELESS RES(T_ABS=-273.15)
GVCCS10     83 MID 82 MID  -1U
R18         MID 83 R_NOISELESS 1MEG 
C10         83 MID  9.5E-16   
GVCCS9      85 MID 84 MID  -4
R17         86 MID R_NOISELESS 3.333K 
C9          86 85 318.3F   
R13         86 85 R_NOISELESS 10K 
R12         85 MID R_NOISELESS 1 
C6          82 MID  2E-16   
R8          MID 82 R_NOISELESS 1MEG 
GVCCS6      82 MID 87 MID  -1U
GVCCS7      88 MID 86 MID  -5.263
R11         87 MID R_NOISELESS 2.346K 
C7          87 88 370F   
R10         87 88 R_NOISELESS 10K 
R9          88 MID R_NOISELESS 1 
GVCCS5      89 MID 83 MID  -1U
R7          MID 89 R_NOISELESS 1MEG 
C5          89 MID  9.5E-16   
GVCCS4      90 MID 89 MID  -1U
R6          MID 90 R_NOISELESS 1MEG 
C4          90 MID  9.5E-16   
GVCCS3      92 MID 91 MID  -4
R5          84 MID R_NOISELESS 3.333K 
C3          84 92 318.3F   
R3          84 92 R_NOISELESS 10K 
R2          92 MID R_NOISELESS 1 
GVCCS1      93 MID 90 MID  -1U
R1          MID 93 R_NOISELESS 1MEG 
C1          93 MID  9.5E-16   
GVCCS8      95 MID 94 MID  -4
R16         91 MID R_NOISELESS 3.333K 
C8          91 95 318.3F   
R15         91 95 R_NOISELESS 10K 
R14         95 MID R_NOISELESS 1 
GVCCS2      94 MID VSENSE MID  -1U
R4          MID 94 R_NOISELESS 1MEG 
C2          94 MID 17F   
GVCCS2_2    97 MID 96 MID  -1
R7_2        98 MID R_NOISELESS 1 
C2_2        99 MID 527.07P   
R5_2        96 99 R_NOISELESS 10K 
R4_2        96 98 R_NOISELESS 3.9511007K 
R9_3        100 MID R_NOISELESS 1 
XVCCS_LIM_ZO 101 MID MID 100 VCCS_LIM_ZO_0_0_OPA1662
R11_3       101 MID R_NOISELESS 1M 
C4_3        101 97 15.915P   
R10_3       101 97 R_NOISELESS 10K 
R1_3        97 MID R_NOISELESS 1 
GVCCS1_1    98 MID ZO_CRIGHT MID  -12.953
C1_1        ZO_CLEFT ZO_CRIGHT 9.5975U   
R2_1        ZO_CRIGHT MID R_NOISELESS 836.6093 
R1_1        ZO_CRIGHT ZO_CLEFT R_NOISELESS 10K 
Rdummy      MID ZO_OUT R_NOISELESS 3.754K 
Rx          ZO_OUT 100 R_NOISELESS 37.54K 
Rdc_1       ZO_CLEFT MID R_NOISELESS 1 
G_Aol_Zo    ZO_CLEFT MID CL_CLAMP ZO_OUT  -89.0485
GVCCS4_CL   CL_CLAMP MID CLAW_CLAMP MID  -1M
XVCCS_LIM_2 4_A0 MID MID CLAMP VCCS_LIM_2_0_0_OPA1662
C1_A0       CLAMP MID 82N   
R4_A0       MID CLAMP R_NOISELESS 1MEG 
R3_A0       MID 4_A0 R_NOISELESS 1MEG 
XVCCS_LIM_1 AOL_INP AOL_INN MID 4_A0 VCCS_LIM_1_0_OPA1662
R4_CL       MID CL_CLAMP R_NOISELESS 1K 
R4_CC       MID CLAW_CLAMP R_NOISELESS 1K 
GVCCS4_CC   CLAW_CLAMP MID 93 MID  -1M
R4_VS       MID VSENSE R_NOISELESS 1K 
GVCCS4_VS   VSENSE MID CLAMP MID  -1M
.ENDS
* 
.SUBCKT PSRR_CMRR_0_OPA1662 OUT IN MID
.model R_NOISELESS RES(T_ABS=-273.15)
R80         MID OUT R_NOISELESS 193.6147 
C27         OUT 102 102.68P   
R79         102 OUT R_NOISELESS 100MEG 
GVCCS8      102 MID IN MID  -516.49M
R78         MID 102 R_NOISELESS 1 
.ENDS
* 
.SUBCKT PSRR_CMRR_1_OPA1662 OUT IN MID
.model R_NOISELESS RES(T_ABS=-273.15)
R80         MID OUT R_NOISELESS 237.5006 
C27         OUT 103 167.53P   
R79         103 OUT R_NOISELESS 100MEG 
GVCCS8      103 MID IN MID  -421.05M
R78         MID 103 R_NOISELESS 1 
.ENDS
* 
.SUBCKT PSRR_CMRR_2_OPA1662 OUT IN MID
.model R_NOISELESS RES(T_ABS=-273.15)
R2a         MID 104 R_NOISELESS 258.334 
C1a         104 105 10.268P 
R48         105 104 R_NOISELESS 100MEG 
G_1         105 MID IN MID  -48.175M
Rsrc        MID 105 R_NOISELESS 1 
GVCCS2      OUT MID 104 MID  -1
R49         MID OUT R_NOISELESS 1 
.ENDS
* 
.SUBCKT ESD_0_OPA1662 VEE VCC ESDn ESDp
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=700M VOFF=650M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
SW5         ESDp ESDn ESDp ESDn  S_VSWITCH_1
SW6         ESDn ESDp ESDn ESDp  S_VSWITCH_1
SW1         VEE ESDp VEE ESDp  S_VSWITCH_2
SW3         VEE ESDn VEE ESDn  S_VSWITCH_2
SW4         ESDn VCC ESDn VCC  S_VSWITCH_2
SW2         ESDp VCC ESDp VCC  S_VSWITCH_2
.ENDS
* 
.SUBCKT FEMT_0_0_OPA1662   1 2
.PARAM FLWF=1
.PARAM NLFF=20000
.PARAM NVRF=700
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
* 
.SUBCKT VOS_DRIFT_0_OPA1662  VOS+ VOS-
.PARAM DC = 4.64E-04
.PARAM POL = 1
.PARAM DRIFT = 2.00E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
* 
.SUBCKT VCCS_LIM_GR_0_0_OPA1662   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 3.3162E1
.PARAM INEG = -3.3162E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_4_0_0_OPA1662   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.7056E1
.PARAM INEG = -0.7014E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_3_0_0_OPA1662   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.3528E1
.PARAM INEG = -0.3507E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW+_0_0_OPA1662   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 620.2e-6)
+(20.1429, 0.0006514)
+(30, 0.0007632)
+(35.0714, 0.000987)
+(36.6429, 0.0012017)
+(37.9286, 0.0016261)
+(40, 0.0025789)
+(41.3571, 0.0036352)
+(43, 0.0056395)
+(46.4286, 0.01206955)
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW-_0_0_OPA1662   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 618.93e-6)
+(20.0087, 6.211E-4)
+(29.6691, 6.263E-4)
+(31.7443, 7.263E-4)
+(33.0334, 8.421E-4)
+(34.1087, 1.3684E-3)
+(35.0415, 2.1053E-3)
+(36.0467, 3.05E-3)
+(40.0716, 8E-3)
+(43.3063, 0.012)
.ENDS
* 
.SUBCKT VNSE_0_0_OPA1662   1 2
.PARAM FLW=1
.PARAM NLF=5.5
.PARAM NVR=3.2
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
* 
.SUBCKT VCCS_LIMIT_IQ_0_OPA1662   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_OPA1662_0_OPA1662   VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_HI_0_OPA1662  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_OPA1662  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT OL_SENSE_0_OPA1662  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
* 
.SUBCKT VCCS_EXT_LIM_0_OPA1662  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
* 
.SUBCKT VCCS_LIM_ZO_0_0_OPA1662   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 9999991
.PARAM IPOS = 3485.89E3
.PARAM INEG = -3251.445E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_2_0_0_OPA1662   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.1335
.PARAM IPOS = 1.45
.PARAM INEG = -1.45
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_1_0_OPA1662  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
